US05916905
2-Butoxy-6-(4-fluorophenyl)-3-(methoxymethyl)-5-[4-(methylsulfonyl)phenyl]pyridine
Sodium hydride (11 mg 4.5 mMol) is added to a stirring solution of 2-butoxy-6-(4-fluorophenyl)-3-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]pyridine (50 mL). After 1 hour, methyl iodide (85 mg, 0.6 mMol) is added and the reaction mixture is stirred for 20 hours at room temperature. Water (1 mL) is added dropwise and the mixture is concentrated to an oily solid. The titled material is purified by silica gel chromatography.

reactant | Sodium hydride | 4.5 mMol, 11 mg | [H-].[Na+]
reactant | 2-butoxy-6-(4-fluorophenyl)-3-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]pyridine | 50 mL | C(CCC)OC1=NC(=C(C=C1CO)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C23H24FNO4S
reactant | methyl iodide | 0.6 mMol, 85 mg | CI | CH3I
solvent | Water | 1 mL | O | H2O
product | 2-Butoxy-6-(4-fluorophenyl)-3-(methoxymethyl)-5-[4-(methylsulfonyl)phenyl]pyridine | C(CCC)OC1=NC(=C(C=C1COC)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C24H26FNO4S
